US08609653B2
A solution of ethyl 1-(3,4-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate (6.5 g, 11.40 mmol) in anhydrous DCM (110 mL) was cooled to −55° C. and then DIBAL-H (22.80 mL, 22.80 mmol) (1M/toluene) was added dropwise in ˜20 min and the mixture was allowed to warm to 0° C. in 1 h and kept at 0° C. for 1 h. More DIBAL-H (12 mL, 12 mmol) was added and stirring at 0° C. continued for 1 h. The mixture was cooled to 0° C. and water (1.4 mL) was added slowly followed by 15% NaOH/water (1.4 mL) and water (3.5 mL). The mixture was stirred at RT for 15 min then filtered through a path of celite washing with dichloromethane. The filtrate was concentrated and co-evaporated with MeCN, dried in vacuo to provide (1-(3,4-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)methanol (5.0 g, 9.66 mmol, 85% yield) as an orange solid. 1H NMR and LCMS are consistent with proposed structure. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.80 (br s, 1 H), 2.83 (s, 3 H), 5.02 (d, J=2.15 Hz, 2 H), 5.40 (s, 2 H), 6.35 (d, J=3.51 Hz, 1 H), 6.92-7.12 (m, 3 H), 7.13 (d, J=3.51 Hz, 1 H); LCMS (m/z) ES+=415 (M+1).

reactant | ethyl 1-(3,4-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate | 11.40 mmol, 6.5 g | FC=1C=C(CN2C=CC=3C2=NC(=C(C3I)C(=O)OCC)C)C=CC1F | C18H15F2IN2O2
reactant | DIBAL-H | 22.80 mmol, 1M, 22.80 mL | CC(C)C[AlH]CC(C)C
reactant | DIBAL-H | 12 mmol, 12 mL | CC(C)C[AlH]CC(C)C
reactant | water | 1.4 mL | O | H2O
reactant | NaOH water | 1.4 mL | [OH-].[Na+].O
reactant | water | 3.5 mL | O | H2O
solvent | DCM | 110 mL | C(Cl)Cl | CH2Cl2
product | (1-(3,4-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)methanol | 9.66 mmol, 5.0 g, 85% yield | FC=1C=C(CN2C=CC=3C2=NC(=C(C3I)CO)C)C=CC1F | C16H13F2IN2O
